US04904653
2-Acetamido-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine
A suspension of 6-methyl-2-nitro-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride (0.20 g) and 10% palladium on carbon (20 mg) in acetic acid (18 ml), acetic anhydride (2 ml) was hydrogenated on a Parr apparatus for 24 hours at 70 psi. The mixture was filtered and the filtrate evaporated. The residue was dissolved in water (30 ml), basified to pH~11 with ammonia solution and extracted with dichloromethane (2×50 ml). The extracts were dried filtered and evaporated to a yellow viscous oil. Crystallisation from toluene gave the title product (m.p. 180°).

reactant | 6-methyl-2-nitro-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride | 0.20 g | Cl.CN1CC(C2=C(CC1)C=C(S2)[N+](=O)[O-])C2=CC=CC=C2
reactant | acetic acid | 18 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetamido-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine | C(C)(=O)NC1=CC2=C(C(CN(CC2)C)C2=CC=CC=C2)S1 | C17H20N2OS
